US06995151B2
N,N′-Dibenzyl-4-methoxy-isophthalamide
By following the general method of Example 1, benzyl amine was reacted with 4-methoxy-1,3-benzenedicarbonyl dichloride to give the titled compound. MS: M+1=375.2.

reactant | benzyl amine | C(C1=CC=CC=C1)N | C7H9N
reactant | 4-methoxy-1,3-benzenedicarbonyl dichloride | COC1=C(C=C(C=C1)C(=O)Cl)C(=O)Cl | C9H6Cl2O3
product | N,N′-Dibenzyl-4-methoxy-isophthalamide | C(C1=CC=CC=C1)NC(C1=CC(C(=O)NCC2=CC=CC=C2)=C(C=C1)OC)=O | C23H22N2O3
